Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
PICC line insertion
PICC line removal

 
History of Present Illness:
ID: ___ man with AML, with extensive extramedullary
disease(testicular mass, skin, gum sarcomas) s/p allo transplant
(___) with hospital stay complicated by ___ disease of the
gut (Stage II, grade I), atrial flutter, 2:1, with rapid
ventricular response up 160/min.

Pt presented to clinic on ___ c/o loose stools. Per pt, he
started having loose stools about 5 days ago (on ___ and 
there
after had ___ watery stools per day. Last BM was on ___ and it
was watery diarrhea. Pt had EGD and flexible sigmoidoscopy on
___ biopsies consistent with mild GVHD. He denies 
hematochezia,
hematemesis, and melena. Of note, his cyclosporine was recently
decreased on ___ from 100 mg BID to 75 mg BID.

He has been having abdominal pain which he describes as
intermittent and sharp two days prior to admission. He continues
to have an appetite, but has had some intermittent nausea and
vomited on ___. He denies vomiting since. He has had no fevers
or chills. He denies chest pain, heart palpitations, SOB, HA,
cough, and swelling. He reports a rash on the back of his thighs
which ahs been evaluated by dermatology and Dr. ___ 
he
reports they are unimpressed.
 
Past Medical History:
hypothyroidism
anxiety
chronic pain
dental extraction
L inguinal orchiectomy- ___
 
Social History:
___
Family History:
Maternal grandmother had lung cancer
Father had MI
___, ALS in the family
 
Physical Exam:
ADMISSION
PHYSICAL EXAM: 
Vitals: 97.7 132 / 72 87 20 96 
Gen: Pleasant, calm  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: supple without LAD. Normal carotid upstroke without 
bruits.
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, ND. Tender over R and L lower quadrants without
rebound or guarding. 
EXT: WWP. No ___ edema. 
SKIN: pale, 1 mm, raised, redness at follicles over back of ___
thighs
NEURO: A&Ox3.
LINES: no lines yet

DISCHARGE
Vitals: 98.0 170 / 109 65 18 98 RA 
Gen: Pleasant, calm  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: supple without LAD. Normal carotid upstroke without 
bruits.
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, ND. Non-tender
EXT: WWP. No ___ edema. 
SKIN: pale, 1 mm, raised, redness at follicles over back of ___
thighs
NEURO: A&Ox3.
LINES: PICC
 
Pertinent Results:
ADMISSION

___ 04:45PM BLOOD WBC-9.5 RBC-3.59* Hgb-11.1* Hct-34.4* 
MCV-96 MCH-30.9 MCHC-32.3 RDW-17.2* RDWSD-60.4* Plt ___
___ 04:45PM BLOOD Neuts-73.8* Lymphs-16.8* Monos-8.1 
Eos-0.3* Baso-0.3 NRBC-0.7* Im ___ AbsNeut-6.97* 
AbsLymp-1.59 AbsMono-0.77 AbsEos-0.03* AbsBaso-0.03
___ 06:35AM BLOOD ___ PTT-25.2 ___
___ 04:45PM BLOOD  WBC-9.5 Lymph-17* Abs ___ CD3%-76 
Abs CD3-1225 CD4%-34 Abs CD4-548 CD8%-41 Abs CD8-656 
CD4/CD8-0.84
___ 04:45PM BLOOD UreaN-38* Creat-1.5* Na-136 K-6.1* Cl-106 
HCO3-21* AnGap-9*
___ 04:45PM BLOOD ALT-59* AST-33 LD(LDH)-324* AlkPhos-84 
TotBili-0.4
___ 04:45PM BLOOD TotProt-6.2* Albumin-4.1 Globuln-2.1 
Calcium-9.2 Phos-3.2 Mg-2.2
___ 04:45PM BLOOD 25VitD-22*
___ 04:45PM BLOOD Cyclspr-221
___ 12:00AM BLOOD CMV VL-NOT DETECT

IMAGING
CT A/P ___
IMPRESSION:

1. Diffuse heterogeneous appearance of the visualized osseous 
structures new
since ___, and compatible with known leukemia.
2. Please note that evaluation of colitis is limited on a 
noncontrast study,
however, no obvious colitis is identified on this exam.

DISCHARGE

___ 12:00AM BLOOD WBC-9.0 RBC-3.30* Hgb-9.9* Hct-31.7* 
MCV-96 MCH-30.0 MCHC-31.2* RDW-17.1* RDWSD-60.1* Plt ___
___ 12:00AM BLOOD Neuts-84* Bands-1 Lymphs-9* Monos-5 Eos-0 
Baso-0 ___ Metas-1* Myelos-0 AbsNeut-7.65* AbsLymp-0.81* 
AbsMono-0.45 AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD ___ PTT-26.5 ___
___ 12:00AM BLOOD ___ 12:00AM BLOOD Glucose-160* UreaN-27* Creat-1.0 Na-139 
K-4.8 Cl-103 HCO3-21* AnGap-15
___ 12:00AM BLOOD ALT-37 AST-17 LD(LDH)-297* AlkPhos-56 
TotBili-0.3
___ 12:00AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.8 UricAcd-7.8*
___ 09:00AM BLOOD Cyclspr-___ M with AML, MLL(+)s/p post MUD TB/Cy Allo without evidence of 
disease relapse and chimerism 100% by FISH on most recent bone 
marrow bx (___) admitted with diarrhea initially concerning 
for possible GVHD, but with complete resolution of his symptoms 
by discharge. 

# Diarrhea, concerning for acute GVHD
Patient presented with several days of watery diarrhea 
accompanied by abdominal pain, but was afebrile. He had a 
endoscopy and flexible sigmoidoscopy with biopsies taken on 
___ prior to admission which revealed pathology consistent 
with mild GVHD. C. difficile was negative, CT abdomen and pelvis 
was without colitis or ileus. Patient was initiated on 60 mg of 
Solu-Medrol twice daily, and his cyclosporine was increased from 
75 200 mg twice daily. Fortunately his diarrhea had resolved on 
the day of admission, and his abdominal pain resolved over the 
course of his hospitalization. He had 2 normal bowel movements 
while hospitalized. His steroids were tapered as below, and his 
diet was advanced as tolerated. 

# Acute Kidney Injury, resolved
Mr. ___ presented with a creatinine of 1.5 from baseline of 
1.0. Suspect pre-renal in the setting of poor PO intake from 
abdominal pain as well as volume loss or diarrhea. He was fluid 
resuscitated as appropriate and his creatinine was back to his 
baseline by discharge.

# Hyperkalemia. Suspect secondary to acute kidney injury from 
volume loss. Patient was volume resuscitated and potassium was 
normal on discharge.

# AML, MLL(+)s/p MUD TB/Cy Allo without evidence of disease
relapse and chimerism 100% by FISH on most recent bone marrow bx
-He was continued on his home acyclovir TID, he was briefly 
switched to atovaquone in setting of acute kidney injury for 
transition back to his home Bactrim, CMV was monitored. His 
cyclosporine was increased to 100 mg twice daily and levels are 
monitored every other day.

# Hypertension: Patient's lisinopril was held in setting of 
acute kidney injury and hyperkalemia. His home lisinopril was 
restarted when his kidney injury resolved. 

# Neuropathy: Continued home gabapentin and oxycodone

# Atrial tachyarrhythmia: s/p cardioversion on ___ with return 
to NSR. No longer requiring rate or rhythm control agents. 
Patient was monitored.

TRANSITIONAL ISSUES
[] Prednisone taper: Patient should take 10 mg of prednisone on 
___, and 5 mg of prednisone on ___. He should continue on 5 
mg of prednisone until he is seen in clinic.
[] Patient's cyclosporine was increased to 100 mg twice daily. 
His cyclosporine level on discharge was 150.
[] Nodulation CT Chest ___ shows extensive medullary blastic 
nodulation has developed throughout the chest cage since ___. Patient will need PET in ___.

# CODE: Presumed Full
# EMERGENCY CONTACT: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
3. Gabapentin 600 mg PO TID 
4. Lisinopril 20 mg PO DAILY 
5. LORazepam 1 mg PO QHS:PRN sleep 
6. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

7. Pantoprazole 40 mg PO Q24H 
8. PredniSONE 4 mg PO DAILY 
9. Sodium Fluoride 1.1% (Dental Gel) 1 Appl TP QHS 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Triamcinolone Acetonide 0.025% Cream 1 Appl TP BID 
12. FoLIC Acid 1 mg PO DAILY 
13. CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H 

 
Discharge Medications:
1.  CycloSPORINE (Neoral) MODIFIED 100 mg PO Q12H 
RX *cyclosporine modified 100 mg 1 capsule(s) by mouth ___ 
#*60 Capsule Refills:*0
RX *cyclosporine modified 25 mg 4 capsule(s) by mouth twice a 
day ___ #*240 Capsule Refills:*0 
2.  PredniSONE 10 mg PO ONCE Duration: 1 Dose 
This is dose # 3 of 4 tapered doses 
3.  PredniSONE 5 mg PO DAILY 
RX *prednisone 5 mg 1 tablet(s) by mouth daily ___ #*30 Tablet 
Refills:*0 
4.  Acyclovir 400 mg PO Q8H  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Gabapentin 600 mg PO TID  
7.  Lisinopril 20 mg PO DAILY  
8.  LORazepam 1 mg PO QHS:PRN sleep  
9.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
10.  Pantoprazole 40 mg PO Q24H  
11.  Sodium Fluoride 1.1% (Dental Gel) 1 Appl TP QHS  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
13.  Triamcinolone Acetonide 0.025% Cream 1 Appl TP BID  
14.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Diarrhea
GVHD
AML
Acute kidney injury
Hyperkalemia

SECONDARY DIAGNOSES
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You admitted to the hospital because you are having diarrhea at 
home.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
We gave you fluids through an IV.  We found initially that her 
kidneys are working as well as it should be, probably because 
you are having so much diarrhea at home.  We continued to 
monitor your kidney function and it was back to normal by the 
time you went home.  Additionally your diarrhea had resolved by 
the time you went home.

WHAT SHOULD I DO WHEN I GO HOME?
You should continue to take her medications as prescribed.  You 
should taper your prednisone dose as described below.  You 
should report to Dr. ___ you have any more diarrhea.  
You should keep the appointments listed below.

It was a pleasure taking care of you,

Your ___ care team.
 
Followup Instructions:
___